US06159990
a. 3-(4-Cyano-4-phenylpiperidin-1-yl)propylphthalimide
A mixture of 4-cyano-4-phenylpiperidine hydrochloride (111 g, 0.5 mol), 3-bromopropylphthalimide (135.39 g, 0.505 mol), potassium carbonate (276.42 g, 2 mol), and potassium iodide (5.4 g) in DMF (1 L) was stirred and heated at 100-110° C. for 8 h. About 80% of the solvent was evaporated at reduced pressure, the residue was diluted with dichloromethane (1 L) and washed with brine (3×300 mL) and dried (Na2SO4). Solvent was evaporated from the dichloromethane solution and the residue was treated with isopropanol (400 mL) and cooled. The pale yellow crystalline product formed was filtered, washed with ice-cold isopropanol and dried (168.6 g, 90%); M.p. 96-98° C.

reactant | 4-cyano-4-phenylpiperidine hydrochloride | 0.5 mol, 111 g | Cl.C(#N)C1(CCNCC1)C1=CC=CC=C1
reactant | 3-bromopropylphthalimide | 0.505 mol, 135.39 g | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
reactant | potassium carbonate | 2 mol, 276.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 5.4 g | [I-].[K+]
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
product | 3-(4-Cyano-4-phenylpiperidin-1-yl)propylphthalimide | C(#N)C1(CCN(CC1)CCCC1=C2C(C(=O)NC2=O)=CC=C1)C1=CC=CC=C1 | C23H23N3O2
